US06388084B1
A solution of N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (29 mg, 0.05 mmol) in THF (3 mL) was treated with a solution of lithium hydroxide monohydrate (20 mg, 0.47 mmol) in water (1.0 mL). Methanol (0.5 mL) was added to effect a clear solution and the reaction mixture was stirred 18 hr. Acetic acid (0.5 mL) was added, the entire reaction mixture was applied to a 4×30 cm, C-18 reversed phase HPLC column and eluted with a gradient of acetonitrile in water of 5 to 95% over 35 min. The product containing fraction was lyophillyzed to give N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine (22 mg, 79%) as a white solid. HRMS: Obs. Mass 562.9814. Calcd. Mass 562.9817 (M+H).

reactant | N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 0.05 mmol, 29 mg | COC([C@@H](NC(=O)C1=C(C=CC(=C1)OC)Br)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Br)C)=O)=O | C24H22Br2N2O5
reactant | lithium hydroxide monohydrate | 0.47 mmol, 20 mg | O.[OH-].[Li+]
reactant | Methanol | 0.5 mL | CO | CH4O
reactant | Acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine | 22 mg, 79% | BrC1=C(C=C(C=C1)OC)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C=C(C1)Br)C)=O)C(=O)O | C23H20Br2N2O5
